US06689806B1
A mixture of 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one (39 mg, 0.22 mmol), 1H-indole-5-carbaldehyde (32 mg, 0.22 mmol) and 1 drop of piperidine in ethanol was heated at 90° C. for overnight and cooled to room temperature. The reaction mixture was concentrated and the residue was purified on silica gel column to give 48 mg (72%) of 4-(2-hydroxy-ethyl)-3-(1H-indol-5-ylmethylene)-1,3-dihydro-indol-2-one as a yellow solid.

reactant | 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one | 0.22 mmol, 39 mg | OCCC1=C2CC(NC2=CC=C1)=O | C10H11NO2
reactant | 1H-indole-5-carbaldehyde | 0.22 mmol, 32 mg | N1C=CC2=CC(=CC=C12)C=O | C9H7NO
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 4-(2-hydroxy-ethyl)-3-(1H-indol-5-ylmethylene)-1,3-dihydro-indol-2-one | 48 mg, 72% | OCCC1=C2C(C(NC2=CC=C1)=O)=CC=1C=C2C=CNC2=CC1 | C19H16N2O2
